US06436929B1
[6-(4,4-dimethyl-2-thioxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)pyridin-2-yl]acetonitrile
To [6-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)pyridin-2-yl]acetonitrile (80 mg, 0.27 mmol, 1 eq) in p-xylene (10 mL) was added Lawesson's reagent (55 mg, 0.14 mmol, 0.5 eq) and the reaction was heated to reflux for 2 hours. The reaction was cooled to room temperature and adsorbed onto silica gel. Purification by flash column chromatography (50% ethyl acetate/hexane) on silica gel gave the title compound (40 mg, 48%) as an off-white solid: mp 215-217° C.; 1H NMR (d6-DMSO, 300 MHz) δ1.71 (s, 6H), 4,28 (s, 2H), 7.15 (d, 1H, J=8.3 Hz), 7.36 (d, 1H, J=7.3 Hz), 7.89 -7.99 (m, 2H), 8.04 -8.11 (m, 2H), 12.32 (s, 1H); MS (ESI) [M−H]−=308; Anal. calcd. for C17H15N3OS: C, 66.00; H, 4.89; N, 13.58. Found: C, 64.43; H, 4.65; N, 12.95.

reactant | [6-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)pyridin-2-yl]acetonitrile | 0.27 mmol, 80 mg, 1 eq | CC1(OC(NC2=C1C=C(C=C2)C2=CC=CC(=N2)CC#N)=O)C | C17H15N3O2
reactant | Lawesson's reagent | 0.14 mmol, 55 mg, 0.5 eq | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | p-xylene | 10 mL | CC=1C=CC(=CC1)C | C8H10
product | [6-(4,4-dimethyl-2-thioxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)pyridin-2-yl]acetonitrile | 40 mg, 48% | CC1(OC(NC2=C1C=C(C=C2)C2=CC=CC(=N2)CC#N)=S)C | C17H15N3OS
